US04080505
In 3 ml of absolute ethanol, 400 mg of ethyl 2-acetyl-2-chloro-3-[4-(2-benzoyl-2-propyloxy)phenyl]propionate is dissolved and with stirring under ice-cooling, 85 mg of barium hydroxide (dehydrated at 125° C for 8 hours under reduced pressure) is added. After 10 minutes stirring, ether is added and the insoluble material is filtered away. The ether layer is washed with water thoroughly, dried, and the evaporation of the solvent gives the oily product of ethyl 2-chloro-3-[4-(2-benzoyl-2-propyloxy)-phenyl]propionate. In IR and NMR, this product is in good agreement with the compound No. 1 in Example 7.

reactant | ethyl 2-acetyl-2-chloro-3-[4-(2-benzoyl-2-propyloxy)phenyl]propionate | 400 mg | C(C)(=O)C(C(=O)OCC)(CC1=CC=C(C=C1)OC(C)(C)C(C1=CC=CC=C1)=O)Cl | C23H25ClO5
reactant | barium hydroxide | 85 mg | [OH-].[Ba+2].[OH-]
reactant | ether | CCOCC | C4H10O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | ethyl 2-chloro-3-[4-(2-benzoyl-2-propyloxy)-phenyl]propionate | ClC(C(=O)OCC)CC1=CC=C(C=C1)OC(C)(C)C(C1=CC=CC=C1)=O | C21H23ClO4
